US08389555B2
STEP A: Preparation of 2-phenoxyacetaldehyde diethyl acetal (69A)
0.94 g (10 mmol) of phenol, 1.52 g (10 mmol) of chloroacetaldehyde diethyl acetal, 2.77 g (20 mmol) of potassium carbonate, 500 mg of potassium iodide and 5 ml of dimethylformamide were heated for 1 hour at 175° C. under microwave conditions. The mixture was then diluted with 2M aqueous sodium hydroxide solution and extracted with dichloromethane. The organic layer was dried with sodium sulfate and the solvent evaporated in vacuum. The crude product was obtained in almost quantitative yield.

reactant | phenol | 10 mmol, 0.94 g | C1(=CC=CC=C1)O | C6H6O
reactant | chloroacetaldehyde diethyl acetal | 10 mmol, 1.52 g | C(C)OC(CCl)OCC | C6H13ClO2
reactant | potassium carbonate | 20 mmol, 2.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 500 mg | [I-].[K+]
solvent | sodium hydroxide | 2M | [OH-].[Na+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-phenoxyacetaldehyde diethyl acetal | quantitative yield | C(C)OC(COC1=CC=CC=C1)OCC | C12H18O3
